Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ruq ABD Pain, Transfer
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of recent
gastric sleeve performed in ___ 4 months ago who presents with
acute worsening of chronic abdominal pain. 

The pain is in her right upper quadrant and has been ongoing for
several hours. Patient has had 4 episodes of acute onset RUQ 
pain
over the past 1 mo, the first three episodes lasted ___. All
occurred in association with eating fatty foods and patient
describes associated nausea and non-bilious emesis with
occasional specks of red blood. The most recent episode occurred
after eating a ___, 4:30PM->12AM on ___. Currently without
any abd pain, mild nausea. She denies fevers and chills,
diarrhea. She endorsed dark urine that started yesterday. Of
note, patient has been taking APAP and ibuprofen ___ weekly for
HAs, but last took them a few weeks ago. Also takes a daily MV,
stopped taking prenatal vitamin/esomeprazole/simethicone about
2mo ago. No EtOH or other supplements. 

She initially presented to ___ where labs were notable for
normal CBC, normal BMP, transaminitis AST/ALT 705/561, ALP 192,
Tbili 1.1, albumin 4.4. Her UA was with increased SG and 40
ketones, moderate bili. Her RUQUS showed:

IMPRESSION:
1. Solid distended gallbladder with ___uct which is
enlarged in the ___. However I do not see any stones in
the gallbladder nor distal common duct stone. One cannot be
excluded. Consideration for MRI\MRCP. The gallbladder wall is 2
mm in thickness upper limits of normal. No pericholecystic 
fluid.
2. Echogenic mass within the liver has the appearance of a
hemangioma.

She was transferred to ___ for further evaluation/management.  


- In the ED, initial vitals were:
97.8 66 114/65 18 99% RA 

- Exam was notable for:
Con: no scleral icterus
Abd: Soft, Nontender, Nondistended. No masses or overlying skin
changes. No organomegaly. Well-healed surgical scars.
Skin: No rash, Warm and dry

- Labs were notable for:

Na 144, K 4.2, Cl 109, HCO3 of 23, BUN 9, Cr 0.7 

ALT 906, AST 1029, ALP 187, LDH 583, lipase 19, tbili 1.0, dibi
0.6, albumin 4.___.9/ PTT 27.2/ INR 1.2 

UA with few bacteria, negative leuks, nitrites, 40 ketones, 2
WBC, 1 epi  

Serum tox negative 
Urine tox negative
Hcg negative 

- Studies were notable for:
CT Abdomen and Pelvis with and without contrast with
1. No biliary dilatation. Gallbladder-wall edema is presumably
reactive.
2. Hypodense hepatic lesion remains incompletely characterized,
but in
combination with finding seen on recent ultrasound likely
represents a
hemangioma. Hypodensity near the falciform ligament likely
represents focal fat.
3. Mild splenomegaly.
4. No other acute findings within the abdomen/pelvis.

- The patient was given:
IV Ondansetron 4 mg 
IVF  LR 1000 mL 

- Bariatric Surgery was consulted and recommended: CT abdomen
with IV and PO contrast, hepatology consult, f/u at ___ 
for
her regular bariatric follow-up

Upon arrival to the floor, patient denies any current abdominal
pain, nausea, or vomiting. She states that her urine has gotten
darker started ___ days ago. The patient denies yellowing of her
skin, but her sister states that she thinks the patient looks
more yellow than usual. Patient denies lightheadedness,
dizziness, orthostatic symptoms. She endorses occasional 
diarrhea
when she eats certain foods, mostly fatty foods, that seem like
dumping syndrome to her; however this only occurs occasionally.
She denies BRBPR or melena. 
 
Past Medical History:
- PCOS
- Migraines
- PSH: Abdominoplasty, breast augmentation, lap sleeve
gastrectomy (___)
 
Social History:
___
Family History:
Father: ___, DM2, HTN
Mother: healthy
Aunt: ___
cousin: lupus 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.9, 106/65, 52 bpm, 18 breaths/min, 99% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended. Soft. Mildly TTP
RLQ with no rebound or guarding. No TTP in other quadrants.
Hepatic edge just below costal margin.
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. No 
asterixis.

DISCHARGE EXAM:
===============
24 HR Data (last updated ___ @ 2323)
    Temp: 98.2 (Tm 98.7), BP: 104/65 (99-116/61-75), HR: 58
(58-76), RR: 18 (___), O2 sat: 97% (97-99), O2 delivery: RA  
 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended. Soft. NO TTP. No
___ sign. Hepatic edge just below costal margin.
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. No 
asterixis.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 08:50AM BLOOD WBC-5.8 RBC-4.40 Hgb-11.7 Hct-37.0 MCV-84 
MCH-26.6 MCHC-31.6* RDW-14.0 RDWSD-42.7 Plt ___
___ 08:50AM BLOOD ___ PTT-27.2 ___
___ 08:50AM BLOOD Glucose-83 UreaN-9 Creat-0.7 Na-144 K-4.2 
Cl-109* HCO3-23 AnGap-12
___ 08:50AM BLOOD ALT-906* AST-1029* LD(LDH)-583* 
AlkPhos-187* TotBili-1.0 DirBili-0.6* IndBili-0.4
___ 07:45PM BLOOD Calcium-8.9 Phos-3.4 Mg-1.8
___ 08:50AM BLOOD Lipase-19

RELEVANT LABS:
==============

___ 06:42AM BLOOD calTIBC-296 Ferritn-39 TRF-228
___ 06:42AM BLOOD Calcium-9.1 Phos-4.1 Mg-1.9 Iron-61 
Cholest-107
___ 06:42AM BLOOD Triglyc-75 HDL-41 CHOL/HD-2.6 LDLcalc-51
___ 08:50AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG 
IgM HAV-NEG
___ 08:50AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 08:50AM BLOOD ___
___ 08:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:50AM BLOOD HCV Ab-NEG

IMAGING:
========

___: CTAP
1. No biliary dilatation.  Gallbladder-wall edema is presumably 
reactive in the setting of underlying transaminitis.
2. Hypodense hepatic lesion remains incompletely characterized, 
but in
combination with finding seen on recent ultrasound likely 
represents a
hemangioma.  Hypodensity near the falciform ligament likely 
represents focal fat.
3. Mild splenomegaly.
4. No other acute findings within the abdomen/pelvis.

___: HIDA
Normal hepatobiliary study. Gallbladder ejection fraction 
normal.

___: MRCP
 
1. No intrahepatic or extrahepatic biliary ductal dilatation.  
No imaging 
findings to explain LFT abnormalities. 
2. Signal abnormality at the junction of segment ___ and segment 
IVb 
corresponds to the prior finding on CT most likely represents 
focal fatty 
deposition, less likely a steatotic adenoma. 

DISCHARGE LABS:
================

___ 07:06AM BLOOD WBC-5.7 RBC-4.28 Hgb-11.4 Hct-36.1 MCV-84 
MCH-26.6 MCHC-31.6* RDW-14.2 RDWSD-43.8 Plt ___
___ 07:06AM BLOOD ___ PTT-32.8 ___
___ 07:06AM BLOOD Glucose-82 UreaN-7 Creat-0.6 Na-143 K-4.7 
Cl-107 HCO3-24 AnGap-12
___ 07:06AM BLOOD ALT-379* AST-114* AlkPhos-153* 
TotBili-0.2
___ 07:06AM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.1 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of recent 
gastric sleeve performed in ___ 4 months ago who presents with 
acute worsening of chronic abdominal pain which is consistent 
with biliary colic. 

ACUTE/ACTIVE ISSUES:
====================
#Acute hepatitis 
#Biliary Colic
The patient described right upper quadrant pain that radiated 
into the back shoulder in the setting of eating fatty meal which 
is most likely consistent with biliary colic. However the 
patient had a CT abdomen pelvis which did not show biliary duct 
dilation or cholelithiasis. There was associated gallbladder 
edema which is likely reactive to the patient's hepatitis. Given 
the suggestive features of biliary colic the patient had a HIDA 
scan which did not show gallbladder abnormalities.

#ACUTE HEPATITIS
The patient presented with right upper quadrant pain and was 
found to have LFT abnormalities consistent with hepatocellular 
injury. There is no indication of medication induced hepatitis, 
shock liver, toxin induced hepatitis. Viral hepatitis studies 
were negative. Autoimmune hepatitis panels were negative. The 
patient had an MRCP which showed no intra/extrahepatic biliary 
ductal dilatation. Shows a steatotic adenoma on the segment ___ 
and segment IVb, but no cause of the AST.ALT elevations. This is 
possible due to passed gallstone. 

#Hemangioma:
CT abdomen revealed hypodense hepatic lesion that remains 
incompletely characterized, but in combination with finding seen 
on recent ultrasound likely represents a benign hemangioma. 

TRANSITIONAL ISSUES:
====================
DISCHARGE AST/ALT: 114/379

[] would repeat LFTs to ensure downtrending 
[] consider hepatology consult if LFTs do not normalize. 
[] would ensure no vitamin deficiencies in the setting of 
gastric sleeve
[] Has focal steatosis near the falciform ligament and a 
hemangioma seen on ultrasound. 
[] Note that hepatitis serologies were consistent with 
non-immune hepatitis B status.

# CODE: Full (confirmed)
# CONTACT: ___ (sister) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
BILIARY COLIC

SECONDARY DIAGNOSIS:
====================
History of Gastric sleeve
Liver Hemangioma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
-You came in the hospital after developing severe right upper 
quadrant abdominal pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-The symptoms you described are likely consistent with biliary 
colic.
-You had a HIDA scan which did not show any gallbladder 
abnormalities.
–You had an MRI of your liver that was normal 
-Your symptoms improved and you were discharged with follow-up 
with hepatology.
  
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow up with the hepatologist.
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___